US04343811
2-{3-[2-(4-Chloro-phenyl)-ethyl]-2-methyl-1-allyl-1H-indole-5-yloxy}-2-methyl-propanoic acid ethylester
Two grams (5 m mole) of 2-{3-[2-(4-chloro-phenyl)-ethyl]-2-methyl-1H-indole-5-yloxy}-2-methyl-propanoic acid ethylester in 20 ml of absolute dimethylformamide were converted to the sodium salt in the present of 0.24 g (~5 m mole) of 55% sodium hydride immersion in oil, and the mixture was alkylated with 1.2 g (10 m mole) of allylbromide at room temperature. After the solvent was distilled off in vacuo, the evaporation residue was dissolved in toluene, filtered, and purified over a silicagel column (solvent: toluene).

reactant | 2-{3-[2-(4-chloro-phenyl)-ethyl]-2-methyl-1H-indole-5-yloxy}-2-methyl-propanoic acid ethylester | Two grams | C(C)OC(C(C)(C)OC=1C=C2C(=C(NC2=CC1)C)CCC1=CC=C(C=C1)Cl)=O | C23H26ClNO3
reactant | sodium | [Na] | Na
reactant | sodium hydride | 0.24 g | [H-].[Na+]
reactant | allylbromide | 1.2 g | C(C=C)Br | C3H5Br
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-{3-[2-(4-Chloro-phenyl)-ethyl]-2-methyl-1-allyl-1H-indole-5-yloxy}-2-methyl-propanoic acid ethylester | C(C)OC(C(C)(C)OC=1C=C2C(=C(N(C2=CC1)CC=C)C)CCC1=CC=C(C=C1)Cl)=O | C26H30ClNO3
